US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-3-methoxybenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and m-anisoyl chloride in a similar manner as described above to give an orange solid (49% yield). 1H-NMR (CDCl3): δ 8.92 (s, 1H), 7.61 (m, 1H), 7.38-7.30 (m, 2H), 7.30-7.25 (m, 1H), 7.23 (m, 1H), 7.17 (d, 1H), 7.08-7.02 (m, 1H), 6.39 (d, 1H), 5.32 (m, 1H), 3.85 (s, 3H), 2.72 (m, 2H), 2.31 (m, 1H), 1.97 (m, 3H); MS m/z 399 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-3-methoxybenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC(=CC=C1)OC)=O | C20H19BrN2O2
